US09303028B2
A mixture of 2,7-dichloro-6-fluoroquinazoline (46 mg, 0.21 mmol), 4-(3-(azetidin-3-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide tris(2,2,2-trifluoroacetate) (0.15 g, 0.23 mmol), and potassium carbonate (0.15 g, 1.06 mmol) in DMSO (1 mL) was heated to 100° C. for 1 h, then cooled to RT. Water was added, then the product was extracted into EtOAc. The combined extracts were washed with water (2×), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give an oil. This oil was purified by silica gel chromtography to give 4-(3-(1-(7-Chloro-6-fluoroquinazolin-2-yl)azetidin-3-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide as a light yellow solid (69 mg, 70% yield). m/z=467 (M+1). 1H NMR (400 MHz, chloroFORM-d) δ ppm 3.09 (d, J=4.70 Hz, 3 H) 4.28-4.38 (m, 1 H) 4.45-4.54 (m, 4 H) 6.80 (br. s., 1 H) 7.32-7.42 (m, 3 H) 7.71 (d, J=6.65 Hz, 1 H) 8.27 (t, J=7.92 Hz, 1 H) 8.58 (d, J=1.76 Hz, 1 H) 8.65 (s, 1 H) 8.94 (s, 1 H).

reactant | 2,7-dichloro-6-fluoroquinazoline | 0.21 mmol, 46 mg | ClC1=NC2=CC(=C(C=C2C=N1)F)Cl | C8H3Cl2FN2
reactant | 4-(3-(azetidin-3-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide tris(2,2,2-trifluoroacetate) | 0.23 mmol, 0.15 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.N1CC(C1)C=1C(=NC=CN1)C1=CC(=C(C(=O)NC)C=C1)F
reactant | potassium carbonate | 1.06 mmol, 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-(3-(1-(7-Chloro-6-fluoroquinazolin-2-yl)azetidin-3-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide | 69 mg, 70% yield | ClC1=C(C=C2C=NC(=NC2=C1)N1CC(C1)C=1C(=NC=CN1)C1=CC(=C(C(=O)NC)C=C1)F)F | C23H17ClF2N6O
